US07851473B2
4-(4-Phenyl-1,3-thiazol-2-yl)-N-pyridin-3-ylpiperazine-1-carboxamide hydrochloride
To a solution of 4-(4-phenyl-1,3-thiazol-2-yl)-N-pyridin-3-ylpiperazine-1-carboxamide (1.00 g, 2.74 mmol) in tetrahydrofuran (100 ml) was added a 4N solution of hydrogen chloride in ethyl acetate (20 ml) at room temperature. The mixture was stirred at room temperature for 2 hours and the solvent was distilled off under reduced pressure. The residue was recrystallized from a mixed solvent of diethyl ether and methanol to obtain the desired product (1.09 g, 99.0%) as a solid.

reactant | 4-(4-phenyl-1,3-thiazol-2-yl)-N-pyridin-3-ylpiperazine-1-carboxamide | 2.74 mmol, 1.00 g | C1(=CC=CC=C1)C=1N=C(SC1)N1CCN(CC1)C(=O)NC=1C=NC=CC1 | C19H19N5OS
reactant | hydrogen chloride | Cl | ClH
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
product | 4-(4-Phenyl-1,3-thiazol-2-yl)-N-pyridin-3-ylpiperazine-1-carboxamide hydrochloride | 1.09 g, 99.0% | Cl.C1(=CC=CC=C1)C=1N=C(SC1)N1CCN(CC1)C(=O)NC=1C=NC=CC1 | InChI=1S/C19H19N5OS.ClH/c25-18(21-16-7-4-8-20-13-16)23-9-11-24(12-10-23)19-22-17(14-26-19)15-5-2-1-3-6-15;/h1-8,13-14H,9-12H2,(H,21,25);1H
